US07365082B2
Step E Synthesis of 4-chloro-1-[2-chloro-2-(4-chlorophenyl)ethyl]benzene as an Intermediate
A stirred solution of of thionyl chloride in toluene is cooled to 0° C., and a catalytic amount of pyridine is added. A solution of 1,2-di(4-chlorophenyl)ethan-1-ol in toluene is then added drop wise. Upon completion addition of addition, the reaction mixture is allowed to warm to ambient temperature where it stirs for about 30 minutes. The reaction mixture is washed with water, dried with sodium sulfate, filtered, and concentrated under reduced pressure, yielding the subject compound.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 1,2-di(4-chlorophenyl)ethan-1-ol | ClC1=CC=C(C=C1)C(CC1=CC=C(C=C1)Cl)O | C14H12Cl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-1-[2-chloro-2-(4-chlorophenyl)ethyl]benzene | ClC1=CC=C(C=C1)CC(C1=CC=C(C=C1)Cl)Cl | C14H11Cl3
